US06359137B1
Trovafloxacin Zwitterion
Tetrahydrofuran (250 cm3), ethyl (1α,5α,6α)-7-(6-benzylidenylamino-3-azabicyclo[3.1.0]hex-3-yl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (25.05 g, 47 mmol) obtained above, and water (250 cm3) were treated with 97% methanesulfonic acid (13.3 g, 138 mmol) and heated to reflux for 24 h. The resulting solution, which contained trovafloxacin methanesulfonate salt, was cooled to 45° C., treated with activated carbon (2.5 g) for 1 hr and filtered. Treatment of the filtrate with saturated aqueous sodium bicarbonate to pH 8 (see PCT Publication No. WO 97/07800, example 1A) yields the above-titled compound.

reactant | methanesulfonic acid | 138 mmol, 13.3 g | CS(=O)(=O)O | CH4O3S
reactant | trovafloxacin methanesulfonate | CS(=O)(=O)O.C1[C@@H]2[C@@H](C2N)CN1C3=C(C=C4C(=O)C(=CN(C4=N3)C5=C(C=C(C=C5)F)F)C(=O)O)F
product | Trovafloxacin | C1=CC(=C(C=C1F)F)N2C=C(C(=O)C=3C2=NC(=C(C3)F)N4C[C@@H]5[C@H](C4)[C@H]5N)C(=O)O | C20H15F3N4O3
